US07459454B2
(c) Preparation of: 3-aminopyrazine-2-carbaldehyde
Methyl-3-aminopyrazine-2-carboxylate (11 g) was dissolved in THF and cooled to −78° C. Diisobutylaluminum hydride (1M in hexanes, 250 mL) was added, and the reaction stirred at −78° C. for 4 hours. The reaction was then warmed to 0° C. for one hour before being quenched slowly by addition of 1M hydrochloric acid. Ethyl acetate was added and the layers separated. The organic layer was dried over magnesium sulfate, filtered and concentrated. The residue was triturated in hexanes to afford title compound (3.0 g, 34%).

reactant | Methyl-3-aminopyrazine-2-carboxylate | 11 g | COC(=O)C1=NC=CN=C1N | C6H7N3O2
reactant | Diisobutylaluminum hydride | 1M, 250 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 3-aminopyrazine-2-carbaldehyde | 3.0 g, 34% | NC=1C(=NC=CN1)C=O | C5H5N3O
